US09428456B2
(7.001a): 3-Chloro-6-methyl-pyridazine-4-carboxylic acid [3-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-amide
A solution of 1-(3-amino-benzyl)-piperidine-4-carboxylic acid tert-butylamide BB-4 (400 mg, 1.4 mmol) in DCM (15 mL) is treated successively with 3-chloro-6-methyl-pyridazine-4-carboxylic acid (239 mg, 1.4 mmol), EDC (344 mg, 1.8 mmol) and DMAP (25.3 mg, 0.207 mmol) at RT overnight. The reaction mixture is washed twice with sat.aq. NaHCO3 (15 mL). The aqueous phase is extracted twice with DCM (2×10 mL). The combined organic layers are dried over MgSO4 and filtered. The solvent is evaporated under reduced pressure. The residue is purified by prep HPLC E delivering the title compound (53 mg, 36%) as a light brownish powder, LC-MS A: tR=0.60 min; [M+H]+=444.12.

reactant | 1-(3-amino-benzyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=CC(=CC=C1)N | C17H27N3O
reactant | 3-chloro-6-methyl-pyridazine-4-carboxylic acid | 1.4 mmol, 239 mg | ClC=1N=NC(=CC1C(=O)O)C | C6H5ClN2O2
reactant | EDC | 1.8 mmol, 344 mg
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.207 mmol, 25.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-Chloro-6-methyl-pyridazine-4-carboxylic acid [3-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-amide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC=1C=C(C=CC1)NC(=O)C1=C(N=NC(=C1)C)Cl | C23H30ClN5O2
